US09102671B2
A N2 purged flask was charged with ethyl 5-bromopyrazolo[1,5-a]pyridine-3-carboxylate (100 mg, 0.37 mmol), palladium acetate (1.7 mg, 7 μmol), xantphos (7 mg, 11 μmol), cesium carbonate (170 mg, 0.52 mmol), 1,4-dioxane (0.5 mL) and (R)-3-(4,4-difluoropyrrolidin-2-yl)-5-fluorobenzonitrile (I-24) (84 mg, 0.37 mmol). The contents were heated to 140° C. for 1 hour under microwave irradiation. Upon cooling to room temperature the reaction was partitioned with EtOAc and water. The organic layer was washed with water, brine, dried over magnesium sulfate, filtered and reduced to dryness. The crude product was purified by column chromatography on silica gel with EtOAc/hexanes gradient as eluant to yield (R)-ethyl 5-(2-(3-cyano-5-fluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate (X-8). 1H NMR (400 MHz, CDCl3) δ 8.26 (d, J=7.6 Hz, 1 H), 8.24 (s, 1 H), 7.38 (s, 1 H), 7.33-7.29 (m, 1 H), 7.25-7.21 (m, 1 H), 6.93 (d, J=2.8 Hz, 1 H), 6.19 (dd, J=2.8, 7.6 Hz, 1 H), 5.14 (dd, J=4.4, 9.2 Hz, 1 H), 4.34-4.25 (m, 2 H), 4.25-4.16 (m, 1 H), 4.05-3.93 (m, 1 H), 3.14-2.98 (m, 1 H), 2.53-2.42 (m, 1 H), 1.34 (t, J=7.2 Hz, 3 H). MS m/z 415.1 (M+1)+.

reactant | ethyl 5-bromopyrazolo[1,5-a]pyridine-3-carboxylate | 0.37 mmol, 100 mg | BrC1=CC=2N(C=C1)N=CC2C(=O)OCC | C10H9BrN2O2
reactant | xantphos | 11 μmol, 7 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.52 mmol, 170 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (R)-3-(4,4-difluoropyrrolidin-2-yl)-5-fluorobenzonitrile | 0.37 mmol, 84 mg | FC1(C[C@@H](NC1)C=1C=C(C#N)C=C(C1)F)F | C11H9F3N2
catalyst | palladium acetate | 7 μmol, 1.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (R)-ethyl 5-(2-(3-cyano-5-fluorophenyl)-4,4-difluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate | C(#N)C=1C=C(C=C(C1)F)[C@@H]1N(CC(C1)(F)F)C1=CC=2N(C=C1)N=CC2C(=O)OCC | C21H17F3N4O2
